US08314091B2
N-tert-Butyl-3-((4-(3-fluoro-4-(3-(2-fluorophenyl)ureido)benzoyl)piperazin-1-yl)methyl)benzamide
3-((4-(4-Amino-3-fluorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide (100 mg, 0.242 mmol) and 2-fluorophenylisocyanate (37 mg, 0.267 mmol) were combined and heated in dichloromethane at 100° C. in the microwave for 10 minutes. The solvent was removed under reduced pressure and the residue purified by acidic reverse phase HPLC to afford the title compound (12 mg).

reactant | 3-((4-(4-Amino-3-fluorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide | 0.242 mmol, 100 mg | NC1=C(C=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C=C1)F | C23H29FN4O2
reactant | 2-fluorophenylisocyanate | 0.267 mmol, 37 mg | FC1=C(C=CC=C1)N=C=O | C7H4FNO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-tert-Butyl-3-((4-(3-fluoro-4-(3-(2-fluorophenyl)ureido)benzoyl)piperazin-1-yl)methyl)benzamide | 12 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCN(CC1)C(C1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)F)F)=O)=O | C30H33F2N5O3
